US04866089
Preparation of 7-methoxymethoxy-2,2-dimethyl-4-chromanone
A mixture of 20 ml of 10% sodium hydroxide solution, 50 ml of dichloro methane, 0.5 g (2 millimoles) of triethyl benzyl ammonium chloride and 0.9 g (10 millimoles) of 7-hydroxy-2,2-dimethyl-4-chromanone is intensively stirred at 20° C. for 30 minutes. To the mixture 3.1 g (2 ml, 25 millimoles) of bromomethyl-methyl-ether are added. The reaction mixture is stirred for a further 30 minutes, the organic phase is separated, washed twice with 50 ml. of water each, dried and the solvent is removed. The residue is crystallized from 70% ethanol. Thus 2.1 g of the desired compound are obtained, yield 90%. Mp.: 77°-79° C.

reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
reactant | 7-hydroxy-2,2-dimethyl-4-chromanone | 10 millimoles, 0.9 g | OC1=CC=C2C(CC(OC2=C1)(C)C)=O | C11H12O3
reactant | bromomethyl-methyl-ether | 25 millimoles, 2 ml, 3.1 g | BrCOC | C2H5BrO
catalyst | triethyl benzyl ammonium chloride | 2 millimoles, 0.5 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | dichloro methane | 50 ml | ClCCl | CH2Cl2
product | 7-methoxymethoxy-2,2-dimethyl-4-chromanone | 2.1 g, yield 90% | COCOC1=CC=C2C(CC(OC2=C1)(C)C)=O | C13H16O4
